US06630600B1
3-(4-Benzyloxyphenyl)-2-ethoxy-3-methylacrylic acid ethyl ester (1.58 g; 4.64 mmole) was hydrogenated at atmospheric pressure in ethyl acetate (20 ml) using Pd/C (wet) as catalyst. After filtration through celite, the solvent was evaporated in vacuo to give (1.1 g; yield 94%) of 3-(4-hydroxyphenyl)-2-ethoxybutanoic acid ethyl ester as a diastereomeric mixture.

reactant | 3-(4-Benzyloxyphenyl)-2-ethoxy-3-methylacrylic acid ethyl ester | 4.64 mmole, 1.58 g | C(C)OC(C(=C(C)C1=CC=C(C=C1)OCC1=CC=CC=C1)OCC)=O | C21H24O4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-2-ethoxybutanoic acid ethyl ester | 1.1 g, yield 94% | C(C)OC(C(C(C)C1=CC=C(C=C1)O)OCC)=O | C14H20O4
